resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.996242
R2 0 n2 0.996793
R3 0 n4 1.012256
R4 n1 n3 1.013396
R5 n1 n5 0.985962
R6 n2 n3 1.0129
R7 n2 n6 0.091925
R8 n3 n7 1.010849
R9 n4 n5 1.008435
R10 n4 n6 0.99962
R11 n5 n7 1.001572
R12 n6 n7 0.992894
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
